Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / Tylenol
 
Attending: ___.
 
Chief Complaint:
Bradycardia 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o T2DM, HTN, HLD currently
on lisinopril, verapamil 240ER who presented to ___ with
lightheadedness, found to have bradycardia, ___, hyperkalemia 
and
transferred to ___ for further evaluation/management. Per
patient, she was in her USOH until the past few days, when she
developed small amount of DOE, but still able to walk 2 miles.
She denies any runny nose, sore throat, cough. Denies
fevers/chills. Denies any chest pain, nausea/vomiting. On the
night of ___, the patient was getting up from sitting to
standing and noted that she was extremely lightheaded and
diaphoretic. She denies LOC. No CP/palpitations, N/V. She notes
she occasionally has some lightheadedness but this is usually
only momentary in nature. She denies any recent med changes,
changes in PO intake, fevers/chills, nausea/vomiting/diarrhea,
dysuria, recent sick contacts, or recent travel. Because the
lightheadedness was very severe, she called ___ and brought in 
to
___. 

Per EMS, her heart rate was initially in the ___ with SBP in the
___, improving to heart rate ___ and normotension after 1L IVF.
Upon arrival to ___, her heart rate was 41, which 
improved
to the ___ by the time of transfer. She was noted to have a
lactate of 5.1, a creatinine of 1.81, intake K of 7.9 (treated
with calcium gluconate/insulin/dextrose).

In the ___ ED, initial vitals were: T98.3, HR72, BP112/68,
RR18, O2Sat100% RA.

- Exam notable for: AAOx3, CV: RRR, (+)S1, S2, Lungs: (+)
bibasilar crackles, no wheeze, Extrem: warm, no edema

- Labs notable for: WBC 10.6>9.8, Hgb 11.4, Plt 160, K 7.9 (OSH)
> 5.5 > 5.0, AGMA with HCO3 15>18, Cr 1.5>1.2, ALT 126, AST 120,
tbili 0.5, trop <0.01, proBNP 640, lactate 2.5, UA with mod
leukocytes, pos nitrites, trace protein, 12 WBCs, mod bacteria,
serum tox negative, urine tox negative, TSH 2.9, Lyme serologies
pending, EBV serologies pending, BCx NGTD, UCx NGTD.

- Imaging was notable for:  
EKG with NSR at 72, QTc 462, no ST elevations/depressions, no t
wave inversions.
OSH CXR with pulmonary vascular congestion. 

- Patient was given:  
___ 06:40 IV     1L LR
___ 07:55 PO/NGLisinopril 40 mg
___ 16:37 IVCefTRIAXone 1 gm

Upon arrival to the floor, patient reports that she feels well.
She denies any lightheadedness/dizziness and she has been 
walking
around the ED and her room without any symptoms. She denies any
CP, SOB. Denies any fevers, chills, nausea, vomiting, diarrhea,
abdominal pain, dysuria, changes in urinary frequency/urgency.

 
Past Medical History:
HTN
HLD
T2DM
s/p appendectomy
 
Social History:
___
Family History:
Mother and brother died of ACS
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
===========================
VITAL SIGNS:  T98.1 BP173/76 HR83 RR20 O2Sat97%Ra
GENERAL: Well appearing, pleasant woman in no acute distress. 
HEENT: NCAT. 
NECK: Supple.
CARDIAC: RRR, no MRG.
LUNGS: CTAB.
ABDOMEN: Soft, NT, ND.
EXTREMITIES: No lower extremity edema.
NEUROLOGIC: A&Ox3, responding to questions appropriately, moving
all extremities with purpose. 
SKIN: No rashes noted.

DISCHARGE PHYSICAL EXAM:  
===========================
VITALS: 97.9PO 182 / 70 66 18 98 RA 
GENERAL: Well appearing, sitting in bed, very pleasant, holding
warm pack on arm
CARDIAC: RRR. No murmurs, rubs or gallops appreciated. 
LUNGS: CTAB, no increased work of breathing
ABDOMEN: Soft, NT, ND.
EXTREMITIES: Left hand and wrist swelling is significantly
reduced. Left antecubital fossa still with swelling and 
erythema,
but erythematous region reduced from previously drawn borders.
Right antecubital fossa with bruising but minimal swelling or
erythema. No lower extremity edema. Warm and well perfused. 

 
Pertinent Results:
ADMISSION LABS: 
==================
___ 05:38AM BLOOD WBC-10.6* RBC-3.50* Hgb-11.4 Hct-34.4 
MCV-98 MCH-32.6* MCHC-33.1 RDW-13.2 RDWSD-46.5* Plt ___
___ 05:38AM BLOOD Neuts-79.5* Lymphs-12.9* Monos-6.3 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-8.41* AbsLymp-1.36 
AbsMono-0.66 AbsEos-0.03* AbsBaso-0.03
___ 05:38AM BLOOD ___ PTT-23.6* ___
___ 05:38AM BLOOD Glucose-236* UreaN-31* Creat-1.5* Na-144 
K-5.5* Cl-108 HCO3-15* AnGap-21*
___ 02:15PM BLOOD ALT-126* AST-120* AlkPhos-76 TotBili-0.5
___ 05:38AM BLOOD cTropnT-<0.01
___ 02:15PM BLOOD proBNP-640*
___ 02:02AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:38AM BLOOD Calcium-8.7 Phos-2.7 Mg-1.9
___ 05:38AM BLOOD TSH-2.9
___ 02:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:46AM BLOOD ___ pO2-41* pCO2-27* pH-7.42 
calTCO2-18* Base XS--4
___ 05:46AM BLOOD Lactate-5.1* K-5.3*
___ 02:19PM BLOOD Lactate-2.5*
___ 01:59PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 01:59PM URINE Color-Straw Appear-Hazy* Sp ___
___ 01:59PM URINE Blood-NEG Nitrite-POS* Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-MOD*
___ 01:59PM URINE RBC-1 WBC-12* Bacteri-MOD* Yeast-NONE 
Epi-6
___ 01:59PM URINE UCG-NEGATIVE
___ 01:59PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

IMAGING: 
==================
EXERCISE STRESS TEST ___

INTERPRETATION: This ___ yo woman with h/o HTN, HLD, and IDDM was
referred to the lab from the inpatient floor following negative 
serial
cardiac enzymes for evaluation of bradycardia and heart rate 
response.
The patient exercised for 7 minutes of a Modified ___ protocol 
and was
stopped for fatigue. The estimated peak MET capacity was 4.9, 
which
represents an average exercise tolerance for her age. There were 
no
reports of chest, back, neck, or arm discomforts during the 
study. At
peak exercise, there was 0.___epression in the
inferolateral leads which resolved by 1 minute of recovery. By 2 
minutes
of recovery, 0.5-1 mm slow upsloping/horizontal ST depression 
was noted
in these same leads before resolving back to baseline by 9 
minutes of
recovery. Rhythm was sinus with rare isolated VPBs and one APB. 
There
was an appropriate heart rate response during exercise and 
recovery.
Mild resting systolic hypertension with an appropriate blood 
pressure
response to exercise. Note: Patient has not received her BP meds 
the
last few days.
IMPRESSION: Non-specific EKG changes during recovery in the 
absence of
anginal type symptoms. Average functional capacity. Appropriate 
heart
rate response.

LEFT UPPER EXTREMITY ULTRASOUND ___. No evidence of deep vein thrombosis in the left upper 
extremity.
2. Acute appearing superficial thrombophlebitis of the left 
cephalic and
basilic veins.

MICROBIOLOGY: 
==================
__________________________________________________________
___ 4:35 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 4:17 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 2:15 pm Blood (EBV)

                            **FINAL REPORT ___

   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 
__________________________________________________________
___ 2:15 pm Blood (LYME)

                            **FINAL REPORT ___

   Lyme IgG (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 

   Lyme IgM (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 
      Negative results do not rule out B. burgdorferi infection. 
 Patients
      in early stages of infection or on antibiotic therapy ___ 
not produce
      detectable levels of antibody. 
__________________________________________________________
___ 1:59 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     8 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

DISCHARGE LABS: 
==================
___ 07:20AM BLOOD WBC-4.4 RBC-3.51* Hgb-11.2 Hct-33.1* 
MCV-94 MCH-31.9 MCHC-33.8 RDW-12.6 RDWSD-43.4 Plt ___
___ 07:20AM BLOOD Glucose-154* UreaN-19 Creat-0.9 Na-143 
K-4.0 Cl-109* HCO3-20* AnGap-14
___ 07:20AM BLOOD ALT-46* AST-25 LD(LDH)-167 AlkPhos-56 
TotBili-0.5
___ 07:20AM BLOOD Calcium-8.8 Phos-4.2 Mg-1.___RIEF HOSPITAL COURSE: 
=======================
Ms. ___ is a ___ F with a history of type 2 
diabetes, hyperlipidemia, and hypertension previously on 
Lisinopril and verapamil who was transferred from ___ 
___  with symptomatic bradycardia likely secondary to 
verapamil toxicity. 
 

ACTIVE ISSUES: 
=======================
#Sinus Bradycardia
#Cardiogenic Shock - Resolved
Presented to outside hospital noted to be bradycardic and 
hypotensive, subsequently found to have ___, hyperkalemia and 
transaminitis and elevated lactate. All consistent with 
cardiogenic shock, quickly responsive to fluids alone at OSH 
and holding home verapamil, and correcting hyperkalemia. 

In the context of subsequent monitoring on telemetry after 
transfer to ___, where VS had all stabilized, she appeared to 
have sinus node dysfunction where rates fell to ___ o/n in 
her sleep while off her home verapamil for >48 hours 
(asympatomatic, and normotensive throughout without evidence of 
AV block). In this context, we hypothesize that at some point 
she was bradycardic while taking home lisinopril 40mg and 
verapamil 240mg which set off a series of events that led to 
___ and hyperkalemia. This hyperkalemia likely further 
depressed nodal function worsening bradycardia leading to 
hypotension and further ___ hepatopathy/'shock 
liver.' Fortunately, all mild in nature and she quickly 
normalized after supportive care and holding home ace-inh and 
verapamil.

Exercise EKG stress test on admission with only nonspecific ST 
abnormality during recovery phase, but overall not concerning 
for ischemia as cause of bradycardia (also troponin was 
negative). TSH normal. Other possible etiologies include Lyme 
and EBV were negative. 

We recommended outpatient TTE and holter monitor to be set up 
by local cardiologist. We discontinued verapamil and following 
resolution ___ restarted lisinopril uptitrating back to 
40mg. renal function and potassium stable. BPs 130s-170s 
systolic (avg 150s), asymptomatic (170 systolic x1 was in 
context of only 20mg lisinopril). 
 
#Hypertension: 
As above

#L Arm swelling: 
#Left Basilic and Cephalic Superficial Thrombophlebitis
Left arm with swollen but non-erythematous hand and wrist.
Swelling in left antecubital fossa with erythema and increased
warmth at site of prior PIV. Doppler u/s w/basilica and 
cephalic superfical thrombophlebitis. Treated with warm 
compresses and elevation with some improvement prior to 
discharge. 

#SOB: 
Patient complaining of SOB on exertion after walking ~
2miles. She walks ___ miles daily at baseline. OSH CXR 
w/evidence
of pulm vasc congestion, but BNP not significantly elevated. 
EKG
without ST changes or T wave inversions, trop neg x 2. At time 
of transfer all symptoms had resolved. Cardiac workup as above. 
 SOB most likely secondary to poor cardiac output i/s/o 
bradycardia. No smoking history. 

# Asymptomatic bacteriuria:  
UCx with >100,000 CFU/mL E. coli, but patient without dysuria 
or increased urinary frequency. Given ceftriaxone x 1 in ED, 
discontinued due to lack of symptoms.

#T2DM:
She was kept on insulin sliding scale during admission. Home 
metformin was continued at discharge. 

#HLD:
Continued home pravastatin at discharge.

TRANSITIONAL ISSUES: 
=======================
#D/c BUN/Cr: ___

#Cardiac:
[] will need outpatient cardiology follow up, pcp to coordinate 
local cardiologist given pt geographic preferences 
[] outpatient TTE and holter monitor at discretion of 
pcp/cardiology
[] HTN regimen at d/c: lisinopril 40mg, discontinued verapamil, 
if needed would add thiazide vs dihydropyridine calcium channel 
blocker
[] repeat cbc, chem 10 and lfts ___ or ___ 

#Superficial venous thromboembolism
[] f/u resolution of left hand swelling and antecubital fossa 
swelling
# CODE: Full (confirmed) 
# CONTACT: ___ (son) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
3. Pravastatin 40 mg PO QPM 
4. Verapamil SR 240 mg PO Q24H 

 
Discharge Medications:
1.  Lisinopril 40 mg PO DAILY  
2.  MetFORMIN XR (Glucophage XR) 500 mg PO BID  
3.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
===================
#Bradycardia
#Medication Adverse Effect
#Acute Kidney Injury
#Transaminitis 
#Hyperkalemia 
#Left Basilic and Cephalic Superficial Thrombophlebitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___!

WHY WAS I ADMITTED TO THE HOSPITAL? 
-Your heart was beating very slowly, at a dangerously low rate.

WHAT HAPPENED WHILE WAS IN THE HOSPITAL?
-Her heart rate was closely monitored, it did become low in your 
sleep, but your blood pressures were normal. This was reassuring 
and is a normal sign of aging, however your blood pressure 
medications were likely too high and likely precipitated a drop 
in blood pressure. 
-Verapamil was stopped.  We think this is what caused her heart 
rate to be very slow.  You should not take verapamil anymore.
-We restarted your home lisinopril and your blood pressures were 
slightly high, but safe to be further changed by your outpatient 
primary care physician.
-You have any exercise stress test, which did not show 
significant abnormalities or clear evidence of heart disease.
-You had an ultrasound of your left arm which showed you have a 
blood clot in the veins.  This is what is causing the swelling 
in her hand and arm.  This is not the type of blood clot that is 
treated with the blood thinner.

WHAT SHOULD I DO WHEN I GO HOME? 
-Continue to use a warm compress on your arm and keep it 
elevated whenever possible.  This will help reduce the swelling.
-Please take all your medicines as described in this paperwork.
-Please follow up with your primary care physician ___ nurse 
___ to: 1) Re-check your potassium in your blood and 2) 
Help further manage your blood pressure medications.
-Please keep all your follow-up appointments as listed below.

We wish you all the best.

Sincerely,
Your ___ team
 
Followup Instructions:
___